US07268232B2
4-(6-Methoxy-3,4-dihydro-1H-isoquinolin-2-yl)naphthalene-1-carbonitrile (196MBT2-26)
The title compound (7 mg, 19% yield) was prepared as described for 196MBT2-4 from 1-cyano-4-fluoronaphthalene (20 mg, 0.117 mmol) and 6-methoxy-3,4-dihydro-1H-isoquinoline (76 mg, 0.468 mmol).

reactant | 1-cyano-4-fluoronaphthalene | 0.117 mmol, 20 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | 6-methoxy-3,4-dihydro-1H-isoquinoline | 0.468 mmol, 76 mg | COC=1C=C2CCNCC2=CC1 | C10H13NO
product | 4-(6-Methoxy-3,4-dihydro-1H-isoquinolin-2-yl)naphthalene-1-carbonitrile | 7 mg, 19% yield | COC=1C=C2CCN(CC2=CC1)C1=CC=C(C2=CC=CC=C12)C#N | C21H18N2O
